US04250123
33 parts by weight of cyclohexene are added dropwise to a mixture of 67 parts by weight of 2-methyl-3-phenylpropyl chloride and 40 parts by weight of 96% strength sulfuric acid at 10° C. Stirring is continued for 14 hours at room temperature. The crude product is dissolved in CHCl3 and the solution is thoroughly washed with ice water, dried over Na2CO3 and distilled. 70 parts by weight of 3-(4-cyclohexylphenyl)-2-methylpropyl chloride are obtained; boiling point 130°-2° C./0.1 mm Hg, yield 70% (based on 2-meythyl-3-phenylpropyl chloride).

reactant | cyclohexene | C1=CCCCC1 | C6H10
reactant | 2-methyl-3-phenylpropyl chloride | CC(CCl)CC1=CC=CC=C1 | C10H13Cl
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 3-(4-cyclohexylphenyl)-2-methylpropyl chloride | yield 70% | C1(CCCCC1)C1=CC=C(C=C1)CC(CCl)C | C16H23Cl
